### ISSUE TITLE
Adding new lemmas `dite_some_none_eq_some` and `dite_some_none_eq_none`

### ISSUE THREAD

**Issue by wupr** [leanprover/lean4#4013]
There are `ite_some_none_eq_none` and  `dite_some_none_eq_some` in `Init.ByCases`. But I would like to add the 'dite' versions to the same file, as proved below:
```
theorem dite_some_none_eq_none {P : Prop} [Decidable P] {α : Type*} {x : P → α} :
    (if h : P then some (x h) else none) = none ↔ ¬P := by
  simp only [dite_eq_right_iff]

@[simp] theorem dite_some_none_eq_some {P : Prop} [Decidable P] {α : Type*} {x : P → α} {y : α} :
    (if h : P then some (x h) else none) = some y ↔ ∃ h : P, x h = y := by
  split <;> simp_all
```

I've never contributed directly to this repository, so I thought I'd open an issue here to make sure this is the correct place to add the lemmas.

**Comment by nomeata** [comment]
It seems reasonable to me to add these lemma if we have their counterparts for `ite`. Please do create a PR!

**Comment by wupr** [comment]
@nomeata Great! Do I create a branch on this repo (which I don't have access for) or will a fork also work?

**Comment by tydeu** [comment]
@wupr Forks work (and are usually preferred).

**Comment by nomeata** [comment]
Sorry, I missed your question!

**Comment by wupr** [comment]
No worries!
